US08710049B2
1-(4-Nitrophenyl)piperidin-3-ol was synthesized as described in General Procedure A using 1-fluoro-4-nitrobenzene (4.41 g, 31.2 mmol) and piperidin-3-ol (4.3 g, 31.2 mmol) to give an orange solid (6.8 g, 30.6 mmol, 98% yield). Anal. Calcd. for C11H14N2O3 m/z 222.2, found: 223.3 (M+H)+; 1H NMR (500 MHz, CDCl3) δ ppm 8.14-7.98 (m, 2H), 6.83 (d, J=9.35 Hz, 2H), 3.89 (d, J=3.85 Hz, 1H), 3.72 (dd, J=12.92, 3.57 Hz, 1H), 3.53 (ddd, J=13.06, 5.91, 3.02 Hz, 1H), 3.33-3.16 (m, 2H), 2.10-1.97 (m, 2H), 1.96-1.84 (m, 1H), 1.75-1.50 (m, 2H).

reactant | 1-fluoro-4-nitrobenzene | 31.2 mmol, 4.41 g | FC1=CC=C(C=C1)[N+](=O)[O-] | C6H4FNO2
reactant | piperidin-3-ol | 31.2 mmol, 4.3 g | N1CC(CCC1)O | C5H11NO
product | 1-(4-Nitrophenyl)piperidin-3-ol | [N+](=O)([O-])C1=CC=C(C=C1)N1CC(CCC1)O | C11H14N2O3
